US06211215B1
In substantially the same manner as in Working Example 8, imidazole was allowed to react with 3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate to give 4-[3-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole. The yield was 63%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 86-87° C.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate | CS(=O)(=O)OCCCC1=CC(=CC=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C22H23NO5S
product | 4-[3-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole | yield was 63% | N1(C=NC=C1)CCCC=1C=C(OCC=2N=C(OC2)\C=C\C2=CC=CC=C2)C=CC1 | C24H23N3O2
